US04927819
Step B 2-Methoxy-5-hydroxymethyl-dibenzo[a,d]cycloheptene
To a solution of 2-methoxy-5-methylene-dibenzo [a,d]cycloheptene (12.8 g) in dry THF (50 ml), under an inert atmosphere, was added 9-borabicyclo[3,3,1]nonane (116 ml of a 0.5 molar solution in THF) at ambient temperature, and the reaction mixture was then refluxed for 3h. After cooling in an ice bath the reaction was quenched by the slow addition of 2N sodium hydroxide solution (150 ml) and 30% hydrogen peroxide (30 ml). After stirring vigorously at 0° C. for 45 minutes the reaction mixture was allowed to warm to room temperature over a period of 2h then extracted with diethyl ether (3×200 ml). The combined organic layers were washed with brine (1×300 ml), dried (Na2SO4), filtered and concentrated in vacuo to leave a residue, which was purified by chromatography on flash silica with 30% ethyl acetate in hexane as eluent, to give the title compound (10.9 g) as an oil. δ(360 MHz, CDCl3) 3.77-3.81 (2H, d, J=8.1 Hz, CH2), 3.80 (3H, s, OCH3), 4.16 (1H, t. J=8.1 Hz, CH--CH2OH), 6.79 (1H, d, J=11.9 Hz, ArCHA =CHB --Ar), 6.33 (1H, d, J=2.6 Hz, CH=C(OCH3)--CH), 6.85 (1H, d, J=11.9 Hz, Ar--CHA =CHB --Ar), 6.89 (1H, dd, J=8.3 and 2.6 Hz, CH=C(OCH3)CH) and 7.23-7.33 (5H, m, aromatics). m/e (CI+) 253 (M+1).

reactant | 2-methoxy-5-methylene-dibenzo [a,d]cycloheptene | 12.8 g | COC1=CC2=C(C(C3=C(C=C2)C=CC=C3)=C)C=C1 | C17H14O
reactant | 9-borabicyclo[3,3,1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-Methoxy-5-hydroxymethyl-dibenzo[a,d]cycloheptene | 10.9 g | COC1=CC2=C(C(C3=C(C=C2)C=CC=C3)CO)C=C1 | C17H16O2
